US09447109B2
1.38 Kg of asenapine phosphate is loaded into a reactor. Toluene (15 L) is added, and the suspension is placed under stirring. A 9% solution of sodium bicarbonate (15 L) is added by dripping. The solution is left under stirring at 25° C. for 30 minutes. The lower aqueous phase is eliminated. The organic phase is washed with water (2×7 L). The solvent is evaporated under vacuum, obtaining asenapine base (0.90 Kg) in the form of oil. Isopropanol (12 L) is loaded into the reactor and dissolved by heating at 50° C. Maleic acid (0.4 Kg) is added to the asenapine base solution at 50° C. The solution is cooled to 25° C. in approx. 2 hours. The solution is left under stirring at 25° C. for 2 hours. The product is isolated by filtration, washing with isopropanol (3 L). The product is dried under vacuum at 50° C. for 20 hours. 1 Kg of asenapine maleate is obtained.

reactant | asenapine phosphate | 1.38 Kg | CN1CC2C=3C=CC=CC3OC=4C=CC(=CC4C2C1)Cl.P(=O)([O-])([O-])[O-]
reactant | sodium bicarbonate | 15 L | C([O-])(O)=O.[Na+]
solvent | Toluene | 15 L | C1(=CC=CC=C1)C | C7H8
product | asenapine | 0.90 Kg | CN1CC2C=3C=CC=CC3OC=4C=CC(=CC4C2C1)Cl | C17H16ClNO
